US07709649B2
To a stirred solution of 2,3-dichloro-5-methylthiomethylpyridine (3.5 g, 16.8 mmol) and cyanamide (1.43 g, 34 mmol) cooled in an ice-water bath was added iodobenzenediacetate (6.76 g, 21 mmol) in one portion. The resulting mixture was stirred at 0° C. for 30 min and then continued at room temperature for 1 h. A solution of sodium bisulfite (2 g) in water (50 mL) was added and the organic phase separated. The aqueous phase was extracted with dichloromethane (2×50 mL). The combined organic phase was dried over MgSO4 and the solvent evaporated to give a dark red oily residue which was triturated with boiling ether (2×40 mL) with the ether being discarded each time. After standing at room temperature overnight, the residue solidified, which was triturated with hot ethyl acetate (25 mL). Upon cooling down, the off-white solid product was collected by filtration and dried. Concentration of the filtrate and repeating the trituration process gave additional product. The total yield for the product [1-(5,6-dichloropyridin-3-yl)methyl](methyl)-λ4-sulfanylidenecyanamide was 2.45 g (58.8%). LC-MS: calcd for C8H7Cl2N3S [M]+ 247. Found 247.

reactant | 2,3-dichloro-5-methylthiomethylpyridine | 16.8 mmol, 3.5 g | ClC1=NC=C(C=C1Cl)CSC | C7H7Cl2NS
reactant | cyanamide | 34 mmol, 1.43 g | N#CN | CH2N2
reactant | iodobenzenediacetate | 21 mmol, 6.76 g | IC1=C(C(=CC=C1)CC(=O)[O-])CC(=O)[O-]
reactant | sodium bisulfite | 2 g | S([O-])(O)=O.[Na+]
solvent | water | 50 mL | O | H2O
product | [1-(5,6-dichloropyridin-3-yl)methyl](methyl)-λ4-sulfanylidenecyanamide | ClC=1C=C(C=NC1Cl)CS(=NC#N)C | C8H7Cl2N3S
